US09107964B2
2.0 mL of a mixed solution of water/1,4-dioxane=3/1 was added to 163 mg (0.30 mmol equivalents) of 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-[(4-vinyl-2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane, 38 mg (microcapsules, Wako Pure Chemical Industries, Ltd., 0.015 mmol equivalents) of osmium oxide and 130 mg (0.60 mmol equivalents) of sodium iodate were added thereto, and the mixture was stirred at room temperature (25° C.) for 5 days. After completion of the reaction, the osmium oxide was taken out, and the reaction liquid was extracted three times with ethyl acetate. The combined ethyl acetate layers were washed with water and brine, then dried with anhydrous magnesium sulfate, and subsequently concentrated under vacuum. The obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=5/1) to give 107 mg (0.20 mmol equivalents) of 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-[(4-formyl-2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane.

reactant | 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-[(4-vinyl-2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane | 0.30 mmol, 163 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1(COC(OC1)(C)C)CN1C(=NC(=C1)C=C)[N+](=O)[O-] | C29H37N3O5Si
reactant | sodium iodate | 0.60 mmol, 130 mg | I(=O)(=O)[O-].[Na+]
catalyst | osmium oxide | 0.015 mmol, 38 mg | [Os]=O
solvent | water 1,4-dioxane | O.O1CCOCC1
product | 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-[(4-formyl-2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane | 0.20 mmol, 107 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1(COC(OC1)(C)C)CN1C(=NC(=C1)C=O)[N+](=O)[O-] | C28H35N3O6Si
